US06730682B2
6-Bromo-N-(4-chlorobenzyl)-4-hydroxyisoquinoline-3-carboxamide (S.4, X=chloro)
A mixture of 6-bromo-4-hydroxyisoquinoline-3-carboxylic acid (Preparation 8, 0.4 g), 4-chlorobenzylamine (0.219 g), 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (0.305 g) and 1-hydroxybenzotriazole monohydrate (0.217 g) in DMF (20 mL) is stirred at room temperature until judged complete. The solution is then poured into ice water and the resulting solid collected and dried.

reactant | 6-bromo-4-hydroxyisoquinoline-3-carboxylic acid | 0.4 g | BrC=1C=C2C(=C(N=CC2=CC1)C(=O)O)O | C10H6BrNO3
reactant | 4-chlorobenzylamine | 0.219 g | ClC1=CC=C(CN)C=C1 | C7H8ClN
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 0.305 g | Cl.CN(CCCN=C=NCC)C
reactant | 1-hydroxybenzotriazole monohydrate | 0.217 g | O.ON1N=NC2=C1C=CC=C2
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | 6-Bromo-N-(4-chlorobenzyl)-4-hydroxyisoquinoline-3-carboxamide | BrC=1C=C2C(=C(N=CC2=CC1)C(=O)NCC1=CC=C(C=C1)Cl)O | C17H12BrClN2O2
